US07745641B2
In a similar manner to Step 1 of Example 289, 4-hydroxy-5-methyl-7-(1-(tert-butoxycarbonyl)-5-[4-(2-hydroxyethyl)pyperazin-1-ylmethyl]indol-2-yl)isoindolinone (178 mg, 0.280 mmol) was dissolved in dichloromethane (6 mL), and the solution was treated with triethylamine (0.156 mL, 1.12 mmol) and methanesulfonyl chloride (0.043 mL, 0.56 mmol), followed by purification by slurry using hexane to obtain 4-methanesulfonyloxy-5-methyl-7-{1-(tert-butoxycarbonyl)-5-[4-(2-hydroxyethyl)pyperazin-1-ylmethyl]indol-2-yl}isoindolinone (152 mg, yield 76%).

reactant | 4-hydroxy-5-methyl-7-(1-(tert-butoxycarbonyl)-5-[4-(2-hydroxyethyl)pyperazin-1-ylmethyl]indol-2-yl)isoindolinone | 0.280 mmol, 178 mg | OC1=C2CNC(C2=C(C=C1C)C=1N(C2=CC=C(C=C2C1)CN1CCN(CC1)CCO)C(=O)OC(C)(C)C)=O | C29H36N4O5
reactant | triethylamine | 1.12 mmol, 0.156 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.56 mmol, 0.043 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 4-methanesulfonyloxy-5-methyl-7-{1-(tert-butoxycarbonyl)-5-[4-(2-hydroxyethyl)pyperazin-1-ylmethyl]indol-2-yl}isoindolinone | 152 mg, yield 76% | CS(=O)(=O)OC1=C2CNC(C2=C(C=C1C)C=1N(C2=CC=C(C=C2C1)CN1CCN(CC1)CCO)C(=O)OC(C)(C)C)=O | C30H38N4O7S
